* H:\Desktop\301 Team 14\team14\301folder-hiralabs\psoc student pack\ltspice files\Sensor schematic.asc
D1 N004 N002 D
Vsupply N002 0 5
C1 N006 N005 680n
R§thing N006 0 83999.8
R1 N001 N006 10k
R2 vOUT N001 10k
R0 N004 0 10000000
VRef N003 0 2.5
V§-VCC 0 0 0
VCC 0 0 5
XU1 N003 N001 vOUT opamp Aol=100K GBW=10Meg
XU2 N004 N005 N005 opamp Aol=100K GBW=10Meg
.model D D
.lib C:\Users\lger522\OneDrive - The University of Auckland\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m
.backanno
.end
